2172-02-05 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - intermittent delirium
   - apnea -> BiPAP
   - a-line placed; stable BP
   - very minimal urine output; urine lytes consistent with prerenal
   azotemia
   - fluid challenged with 250 mL NS in morning
   - urine analysis with >50 WBCs, mod leuks, mod bact
   - cx pending
   - RUQ u/s: unremarkable (prelim)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2172-2-4**] 08:00 AM
   Metronidazole - [**2172-2-5**] 06:02 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2172-2-4**] 09:02 AM
   Furosemide (Lasix) - [**2172-2-4**] 01:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-2-5**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 94 (89 - 119) bpm
   BP: 87/69(75) {79/55(51) - 109/79(89)} mmHg
   RR: 31 (9 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    926 mL
                                                                    267 mL
   PO:
             TF:
   IVF:
                                                                    926 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                     63 mL
   Urine:
                                                                    960 mL
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -34 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 198 (198 - 1,752) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.43/22/173/15/-6
   Ve: 4 L/min
   PaO2 / FiO2: 433
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   109 K/uL
   13.5 g/dL
   103 mg/dL
   3.4 mg/dL
   15 mEq/L
   4.6 mEq/L
   70 mg/dL
   108 mEq/L
   143 mEq/L
   40.3 %
   12.6 K/uL
        [image002.jpg]
                            [**2172-2-4**]  04:17 AM
                            [**2172-2-4**]  06:03 AM
                            [**2172-2-4**]  01:37 PM
                            [**2172-2-4**]  03:31 PM
                            [**2172-2-4**]  03:36 PM
                            [**2172-2-4**]  11:03 PM
                            [**2172-2-5**]  04:59 AM
                            [**2172-2-5**]  05:44 AM
   WBC
   7.9
   9.0
   12.6
   Hct
   40.4
   41.6
   40.3
   Plt
   116
   102
   109
   Cr
   2.3
   2.6
   3.4
   TropT
   0.03
   0.03
   TCO2
   22
   22
   17
   17
   15
   Glucose
   138
   97
   103
   Other labs: PT / PTT / INR:27.0/35.7/2.7, CK / CKMB /
   Troponin-T:185/7/0.03, ALT / AST:489/528, Alk Phos / T Bili:163/2.9,
   Lactic Acid:5.3 mmol/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
   85-yo man w/ HTN and PAF who presented to the ED w/ dry mouth in the
   setting of treatment for BPH, then found to convert from NSR to A-Fib
   w/ [**Year (4 digits) **] to 120s-130s. Initially controlled on the floor w/ Diltiazem,
   but progressively developed worsening [**Year (4 digits) **], hypoxia, and altered mental
   status, requiring transfer to the CCU.
   .
   #. Paroxysmal atrial fibrillation - Pt w/ h/o PAF which he has not
   tolerated in the past. Previously controlled with BB, although this was
   changed to CCB [**3-9**] orthostatic hypotension. A-Fib w/ [**Month/Day (2) **] on admission
   today unable to be controlled with CCB but responsive to BB.
   - cont BB boluses PRN for [**Month/Day (2) **], uptitrate PO dose as needed
   - heparin gtt for anticoagulation as pt is at elevated risk of stroke
   - will likely need cardioversion given h/o intolerance of A-fib,
   consider chemical vs. electrical cardioversion in AM
   .
   #. Hypoxia - Pt w/ ARF on presentation as below, treated w/ 2L NS given
   concern for pre-renal azotemia. In setting of A-fib w/ [**Name (NI) **], pt likely
   w/ pulmonary edema [**3-9**] poor LV filling time. Responded well to IV Lasix
   boluses received on floor prior to transfer.
   - closely monitor UOP, repeat IV Lasix boluses PRN
   - [**Hospital1 **] lytes and renal function
   .
   #. Altered mental status - Unclear etiology, likely multifactorial
   including PAF w/ [**Hospital1 **], hypoxia, anti-cholinergic medication effect,
   sun-downing, ICU psychosis, and baseline dementia. Not improved w/ rate
   control or diuresis.
   - cont rate control and diuresis as above
   - IV Haldol PRN
   .
   #. Hypertension - Pt w/ hypertension at home, treated only with
   Diltiazem. BPs here have responded to both Dilt and BB treatment for
   rate control.
   - continue to monitor while treating for rate control as above
   - holding Dilt while trying Lopressor for rate control
   - continue Florinef
   .
   #. Acute renal failure - Pt w/ elevated Cr to 1.8-1.9 (from bl Cr 1.3).
   [**Month (only) 60**] be [**3-9**] A-Fib w/ [**Month/Day (2) **] [**3-9**] poor forward flow. Received 2L NS in the
   ED, then became hypoxic which responded to IV Lasix boluses.
   - cont diuresis as above
   - cont close monitoring w/ [**Hospital1 **] lytes and renal function
   - check urine lytes and bilateral renal ultrasounds as not improving,
   esp given h/o BPH and tx w/ Detrol for bladder spasms
   .
   #. Orthostatic hypotension - Pt tx w/ Florinef at home. Also BB was
   changed to CCB.
   - cont Florinef
   - holding CCB while trying BB for rate control
   .
   #. DJD - continue home ASA, Aleve, PPI.
   .
   #. Depression - continue home Celexa.
   .
   #. FEN - NPO except meds tonight, replete lytes PRN
   #. PPx - PPI, bowel regimen, Heparin gtt
   #. Access - PIV
   #. presumed FULL CODE
   #. Dispo - CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-2-4**] 11:37 AM
   Arterial Line - [**2172-2-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2172-02-06 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Oliguric for most of the day, bolused a total of  2L NS, began
   producing urine at 11pm, now neg 1.6L
   Started on digoxin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2172-2-5**] 12:00 PM
   Metronidazole - [**2172-2-5**] 02:00 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2172-2-5**] 10:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-2-6**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 98 (93 - 107) bpm
   BP: 138/85(105) {80/58(66) - 138/96(112)} mmHg
   RR: 23 (15 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,999 mL
                                                                     63 mL
   PO:
                                                                    390 mL
             TF:
   IVF:
                                                                  2,609 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                  1,390 mL
   Urine:
                                                                    700 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,299 mL
                                                                 -1,328 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   GEN: NAD, lying in bed
   HEENT: NC/AT Dry mouth.
   LUNGS: CTAB
   HEART: Irreg irreg rhythm tachy [**3-13**] SM at apex
   ABD: +BS. Soft. NT/ND
   EXTREM: No edema
   NEURO: A+OX3
   Labs / Radiology
   109 K/uL
   13.5 g/dL
   84 mg/dL
   3.7 mg/dL
   15 mEq/L
   4.7 mEq/L
   77 mg/dL
   109 mEq/L
   144 mEq/L
   40.3 %
   12.6 K/uL
        [image002.jpg]
                            [**2172-2-4**]  04:17 AM
                            [**2172-2-4**]  06:03 AM
                            [**2172-2-4**]  01:37 PM
                            [**2172-2-4**]  03:31 PM
                            [**2172-2-4**]  03:36 PM
                            [**2172-2-4**]  11:03 PM
                            [**2172-2-5**]  04:59 AM
                            [**2172-2-5**]  05:44 AM
                            [**2172-2-5**]  02:30 PM
   WBC
   7.9
   9.0
   12.6
   Hct
   40.4
   41.6
   40.3
   Plt
   116
   102
   109
   Cr
   2.3
   2.6
   3.4
   3.7
   TropT
   0.03
   0.03
   TCO2
   22
   22
   17
   17
   15
   Glucose
   138
   97
   103
   84
   Other labs: PT / PTT / INR:27.0/35.7/2.7, CK / CKMB /
   Troponin-T:185/7/0.03, ALT / AST:489/528, Alk Phos / T Bili:163/2.9,
   Lactic Acid:5.3 mmol/L, Albumin:3.4 g/dL, Ca++:7.6 mg/dL, Mg++:2.3
   mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   85-yo man w/ HTN and PAF who presented to the ED w/ dry mouth in the
   setting of treatment for BPH, then found to convert from NSR to A-Fib
   w/ RVR to 120s-130s. Initially controlled on the floor w/ Diltiazem,
   but progressively developed worsening RVR, hypoxia, and altered mental
   status, requiring transfer to the CCU. Now with worsening renal
   failure.
   .
   # Acute renal failure: Creatinine continues to trend up, now 3.4 from
   2.6 yesterday. AG metabolic acidosis likely from both lactic acidosis
   and renal failure. Urine lytes revealed FeUrea < 35%, consistent with
   prerenal physiology. Urine output was very minimal yesterday but
   started to increase with fluid challenges. Renal u/s unremarkable.
   - NS boluses throughout the day
   -  follow lytes closely
   - urine sediments
   - renal consult if no improvement
   .
   # Possible UTI: with pyuria, renal failure. BP has been stable so far.
   - continue empiric rx of ceftriaxone
   - f/u urine cx
   .
   # Paroxysmal atrial fibrillation - Pt w/ h/o PAF which he has not
   tolerated in the past. Previously controlled with BB, although this was
   changed to CCB [**3-9**] orthostatic hypotension. A-Fib w/ RVR on admission
   today unable to be controlled with CCB but responsive to BB. HR well
   controlled overnight.
   - d/c amio because of rising LFTs; start digoxin
   - continue beta blocker for rate control
   - INR currently therapeutic
   .
   # Altered mental status: likely similar to past delirium while in
   hospital. No localized neuro deficit. Much better this morning than
   yesterday.
   - monitor mental status
   - re-orient as needed
   - avoid psychotropic meds if possible
   .
   # Elevated LFTs: transaminases continue to rise.  ?shock physiology.
   - trend LFTs
   - consider checking hepatitis panel
   # Hypertension - Pt w/ hypertension at home, treated only with
   Diltiazem. BPs here have responded to both Dilt and BB treatment for
   rate control.
   - continue to monitor while treating for rate control as above
   - holding Dilt while trying Lopressor for rate control
   - continue Florinef
   .
   #. Orthostatic hypotension - Pt tx w/ Florinef at home. Also BB was
   changed to CCB.
   - cont Florinef
   - holding CCB while trying BB for rate control
   .
   #. DJD - continue home ASA, Aleve, PPI.
   .
   #. Depression - continue home Celexa.
   .
   #. PPx - PPI, bowel regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-2-4**] 11:37 AM
   Arterial Line - [**2172-2-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2172-02-06 11:29:00 Physician Resident Progress Note
Chief Complaint: no complaint
   24 Hour Events:
   - Cr continues to trend up; urine output has significantly increased
   since midnight
   - mental status continues to improve
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2172-2-5**] 12:00 PM
   Metronidazole - [**2172-2-5**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-2-6**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 108 (95 - 108) bpm
   BP: 146/92(114) {92/59(72) - 159/105(125)} mmHg
   RR: 20 (13 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,999 mL
                                                                     63 mL
   PO:
                                                                    390 mL
             TF:
   IVF:
                                                                  2,609 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                  3,480 mL
   Urine:
                                                                    700 mL
                                                                  3,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,299 mL
                                                                 -3,418 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   96 K/uL
   13.9 g/dL
   118 mg/dL
   3.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   85 mg/dL
   111 mEq/L
   148 mEq/L
   41.5 %
   9.4 K/uL
        [image002.jpg]
                            [**2172-2-4**]  04:17 AM
                            [**2172-2-4**]  06:03 AM
                            [**2172-2-4**]  01:37 PM
                            [**2172-2-4**]  03:31 PM
                            [**2172-2-4**]  03:36 PM
                            [**2172-2-4**]  11:03 PM
                            [**2172-2-5**]  04:59 AM
                            [**2172-2-5**]  05:44 AM
                            [**2172-2-5**]  02:30 PM
                             [**2172-2-6**]  05:57 AM
   WBC
   7.9
   9.0
   12.6
   9.4
   Hct
   40.4
   41.6
   40.3
   41.5
   Plt
   116
   102
   109
   96
   Cr
   2.3
   2.6
   3.4
   3.7
   3.9
   TropT
   0.03
   0.03
   TCO2
   22
   22
   17
   17
   15
   Glucose
   138
   97
   103
   84
   118
   Other labs: PT / PTT / INR:31.2/44.8/3.2, CK / CKMB /
   Troponin-T:185/7/0.03, ALT / AST:628/505, Alk Phos / T Bili:155/1.5,
   Lactic Acid:5.3 mmol/L, Albumin:3.2 g/dL, LDH:617 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   85-yo man w/ HTN and PAF who presented to the ED w/ dry mouth in the
   setting of treatment for BPH, then found to convert from NSR to A-Fib
   w/ RVR to 120s-130s. Initially controlled on the floor w/ diltiazem,
   but progressively developed worsening RVR, hypoxia, and altered mental
   status, requiring transfer to the CCU. Now with worsening renal
   failure.
   .
   # Acute renal failure: Likely triggered by renal hypoperfusion.
   Creatinine continues to trend up, now 3.7 from 3.4. However urine
   output has started to increase; now over 1L out since midnight. AG
   metabolic acidosis likely from both lactic acidosis and renal failure.
   Renal u/s unremarkable. Rising Na and Cl likely from aggressive NS
   infusions yesterday.
   - monitor urine output throughout the day
   - follow electrolytes, BUN, Cr [**Hospital1 **]
   - if needed, consider LR boluses
   .
   # Possible UTI: with pyuria, renal failure. BP has been stable so far.
   - continue empiric rx of ceftriaxone
   - f/u urine cx
   .
   # Reduced LVEF: EF 30%, with mod-severe AS, TR, MR, all of which have
   probably contributed to renal and hepatic hypoperfusion. Unclear
   etiology for reduced EF
   - consider cardiac catheterization during this admission but only after
   renal failure resolves
   - aim for even I/O today; likely close to euvolemia currently
   - continue BB
   .
   # Paroxysmal atrial fibrillation - Pt w/ h/o PAF which he has not
   tolerated in the past. RVR on admission, requiring dilt. Amio was
   initially started but d/c'ed due to rising LFTs.
   - d/c digoxin given renal failure
   - uptitrate beta blocker for better rate control
   - INR currently supratherapeutic
   .
   # Altered mental status: likely similar to past delirium while in
   hospital. No localized neuro deficit. Improving.
   - monitor mental status
   - re-orient as needed
   - avoid psychotropic meds if possible
   .
   # Elevated LFTs: transaminases continue to rise.  Likely shock
   physiology from hypoperfusion.
   - continue to trend LFTs
   - f/u hepatitis panel
   .
   # History of hypertension - Pt w/ hypertension at home, treated only
   with Diltiazem. BPs here have been stable.
   - holding Dilt while trying Lopressor for rate control
   - discontinue fludrocort
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-2-4**] 11:37 AM
   Arterial Line - [**2172-2-4**] 03:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, supratherapeutic INR)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2172-02-07 06:10:00 Physician Resident Progress Note
Resident Progress Note
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2172-2-6**] 07:58 PM
   Continued to have great urine output all day yesterday and overnight:
   I/O -5.3L yesterday, -1L today AM
   Creatinine improved to 3.2 on 5pm chem 7
   Yesterday we stopped Fludricortisone, Lasix, and Digoxin, and increased
   his Lopressor dose
   Hepatitis panel still pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2172-2-6**] 10:00 AM
   Metronidazole - [**2172-2-7**] 05:31 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-2-7**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 99 (90 - 108) bpm
   BP: 133/92(102) {112/67(90) - 147/105(110)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,606 mL
                                                                    161 mL
   PO:
                                                                    810 mL
             TF:
   IVF:
                                                                    796 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  6,980 mL
                                                                  1,100 mL
   Urine:
                                                                  6,980 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,374 mL
                                                                   -940 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GEN: NAD, lying in bed
   HEENT: NC/AT Dry mouth.
   LUNGS: CTAB
   HEART: Irreg irreg rhythm tachy [**3-13**] SM at apex
   ABD: Soft. NT/ND. NABS
   EXTREM: No edema
   NEURO: A+OX3, full sentences
   Labs / Radiology
   84
   14.9
   94
   2.5
   30
   3.6
                                     68
   113
   153
   44.3
                                                                       7.3
        [image002.jpg]
   AST 491,  ALT 690, AP 168
   Urine cx ([**2-3**])
 K. pneumoniae (pan-sensitive)
   Bl Cx  - NGTD
                            [**2172-2-4**]  06:03 AM
                            [**2172-2-4**]  01:37 PM
                            [**2172-2-4**]  03:31 PM
                            [**2172-2-4**]  03:36 PM
                            [**2172-2-4**]  11:03 PM
                            [**2172-2-5**]  04:59 AM
                            [**2172-2-5**]  05:44 AM
                            [**2172-2-5**]  02:30 PM
                             [**2172-2-6**]  05:57 AM
                             [**2172-2-6**]  05:03 PM
   WBC
   9.0
   12.6
   9.4
   Hct
   41.6
   40.3
   41.5
   Plt
   102
   109
   96
   Cr
   2.6
   3.4
   3.7
   3.9
   3.2
   TropT
   0.03
   TCO2
   22
   22
   17
   17
   15
   Glucose
   97
   103
   84
   118
   126
   Other labs: PT / PTT / INR:31.2/44.8/3.2, CK / CKMB /
   Troponin-T:185/7/0.03, ALT / AST:628/505, Alk Phos / T Bili:155/1.5,
   Lactic Acid:5.3 mmol/L, Albumin:3.2 g/dL, LDH:617 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   85M w/ HTN and PAF (not on Coumadin [**3-9**] fall risk), who originally
   presented to the ED w/ dry mouth in the setting of BPH treatment, was
   found to convert from NSR to A-Fib w/ RVR to 120s-130s. Initially
   rate-controlled on the floor w/ diltiazem, but progressively developed
   worsening RVR, w hypoxia and altered mental status, requiring transfer
   to the CCU.
   .
   # Acute on Chronic Systolic CHF: LVEF 30% 2/2 dilated CMP, with
   mod-severe AS, TR, MR, all of which have probably contributed to renal
   and hepatic hypoperfusion. Mildly hypovolemic [**3-9**] autodiuresis from
   resolving renal failure
   - consider cardiac catheterization during this admission but only after
   renal failure resolves vs as outpatient
   - continue metoprolol
   .
   # PAF - Pt w/ h/o PAF which he has not tolerated in the past. Not on
   Coumadin [**3-9**] fall risk. RVR on admission, requiring diltiazem.
   Amiodorone was initially started but d/c'ed due to rising LFTs. Digoxin
   d/c
d [**3-9**] ARF. Metoprolol uptitrated to 100mg PO QID, but HRs still
   90s-100s.
   - monitor HR today, consider further uptitrating metoprolol tomorrow
   - INR downtrending
   .
   # ARF: Likely prerenal/ATN [**3-9**] renal hypoperfusion. Creatinine now
   downtrending. ARF is resolving, with great UOP. Renal u/s unremarkable.
   - monitor urine output throughout the day
   - hold ACEI
   - follow electrolytes, BUN, Cr [**Hospital1 **]
   - if needed, consider LR boluses
   .
   # Possible UTI: with pyuria, renal failure. BP has been stable so far.
   UCx
 K. pneumoniae (pan-sensitive)
   - switch antibiotics to cefpodoxime 200mg PO q24h through [**2171-2-16**]
   (14-day course)
   - d/c ceftriaxone and flagyl
   .
   # Hypernatremia: Rising Na and Cl likely from aggressive NS infusions
   and mild hypovolemia.
   - Encourage PO free water intake
   - follow electrolytes, BUN, Cr [**Hospital1 **]
   .
   # Elevated LFTs: transaminase stable today.  Likely shock physiology
   from hypoperfusion.
   - continue to trend LFTs until downtrending
   - f/u hepatitis panel
   .
   # History of hypertension - Pt w/ hypertension at home, treated only
   with Diltiazem. BPs here have been stable.
   - holding Dilt while trying Lopressor for rate control
   .
   # Altered mental status: likely similar to past delirium while in
   hospital. No localized neuro deficit. Improving mentation.
   - monitor mental status
   - re-orient as needed
   - avoid psychotropic meds if possible
   .
   # FEN: regular diet, replete K/Mg as needed
   .
   # Access: PIV
   .
   # Dispo:
   - call-out to [**Hospital Ward Name 7296**]
   - PT
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-2-6**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: